US05877199
Isopropyl (9-Benzyl-4-methyl-1-methylsulfinylcarbazol-2-yl)acetate
750 mg of 80% v/v m-chloroperbenzoic acid in water was added gradually to 40 ml of a solution of isopropyl (9-benzyl-1-methylthio-4-methylcarbazol-2-yl)acetate (1.00 g), obtained in a manner similar to that of the title compound of Example 115, in methylene chloride, and the reaction mixture was stirred for 1 hour, with ice-cooling. After this time, the reaction mixture was diluted with an excess of ethyl acetate and washed with a saturated aqueous solution of sodium hydrogen-carbonate. The resulting organic layer was dried over anhydrous sodium sulfate and then the solvent was removed by evaporation under reduced pressure. The residue was subjected to column chromatography (eluent: a 50-60% v/v solution of ethyl acetate in hexane) to yield 719 mg of the title compound as a solid.

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | isopropyl (9-benzyl-1-methylthio-4-methylcarbazol-2-yl)acetate | 1.00 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC(=C(C12)SC)CC(=O)OC(C)C)C | C26H27NO2S
solvent | water | O | H2O
product | Isopropyl (9-Benzyl-4-methyl-1-methylsulfinylcarbazol-2-yl)acetate | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC(=C(C12)S(=O)C)CC(=O)OC(C)C)C | C26H27NO3S
